US07312214B2
To a suspension of AlCl3 (500.0 mg, 3.75 mmol) in CH2Cl2 at −10° C. was added dropwise oxalyl chloride (476.0 mg, 3.75 mmol) in CH2Cl2. The mixture was stirred at this temperature for 30 min. Then a solution of 2-methyl-2-phenyl-propionic acid methyl ester (178.0 mg, 1.0 mmol) in CH2Cl2 was added. The resulted mixture was stirred at −10° C. for 1 hr and rt overnight. The mixture was filtered through a pad of celite, the solvent and excess oxalyl chloride was removed under reduced pressure. The residue was dissolved in chlorobenzene and refluxed for 4 hr. Solvent was removed and the residue was dried to give 2-(4-chlorocarbonyl-phenyl)-2-methyl-propionic acid methyl ester.

reactant | AlCl3 | 3.75 mmol, 500.0 mg | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | oxalyl chloride | 3.75 mmol, 476.0 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-methyl-2-phenyl-propionic acid methyl ester | 1.0 mmol, 178.0 mg | COC(C(C)(C1=CC=CC=C1)C)=O | C11H14O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-(4-chlorocarbonyl-phenyl)-2-methyl-propionic acid methyl ester | COC(C(C)(C)C1=CC=C(C=C1)C(=O)Cl)=O | C12H13ClO3
